US06384080B1
To a solution of 4-chloro-3-methoxytoluene (5.65 g) and N-bromosuccinimide (6.74 g) in anhydrous dichloromethane (60 mL) was added 2,2′-azolbis(4-methoxy-2,4-diaethylvaleronitrile) (674 mg). After stirring for 3 hours under reflux, the mixture was washed with water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was triturated with hexane to give 4-chloro-3-methoxybenzyl bromide as white powders (2.00 g).

reactant | 4-chloro-3-methoxytoluene | 5.65 g | ClC1=C(C=C(C=C1)C)OC | C8H9ClO
reactant | N-bromosuccinimide | 6.74 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | 4-chloro-3-methoxybenzyl bromide | 2.00 g | ClC1=C(C=C(CBr)C=C1)OC | C8H8BrClO
